US07338957B2
6-Chloro-7-deazapurine (3.9 g, 25.5 mmol), triphosgene (3.80 g, 12.8 mmol), and DIEA (8.9 mL, 51 mmol) are stirred in THF (100 mL) at 0° C. for 3 hours. The THF is removed by evaporation and the residue is dissolved in THF (100 mL). The solution is mixed with N-(3-amino-4-methyl-phenyl)-3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-benzamide (3.5 g, 9.3 mmol) and shaken at room temperature for 18 hours. The solvent is evaporated and the residue is purified by silica gel column chromatography (2% MeOH in CH2Cl2) to obtain 4-chloro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-benzoylamino]-phenyl}-amide (3.4 g, yield 65%). 1H NMR (400 MHz, DMSO-d6) δ 11.07 (s, 1H), 10.71 (s, 1H), 9.62 (s, 1H), 8.99 (s, 1H), 8.62 (s, 1H), 8.55 (s, 1H), 8.46 (d, J=4.0 Hz, 1H), 8.24 (d, J=4.0 Hz, 1H), 8.18 (s, 1H), 7.62 (d, J=8.0 Hz, 1H), 7.35 (d, J=8.0 Hz, 1H), 6.96 (d, J=4.0 Hz, 1H), 2.47 (s, 3H), 2.37 (s, 3H); ESIMS m/z 554.1 (M++1).

reactant | 6-Chloro-7-deazapurine | 25.5 mmol, 3.9 g | C1=CNC2=C1C(=NC=N2)Cl | C6H4ClN3
reactant | triphosgene | 12.8 mmol, 3.80 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | DIEA | 51 mmol, 8.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(3-amino-4-methyl-phenyl)-3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-benzamide | 9.3 mmol, 3.5 g | NC=1C=C(C=CC1C)NC(C1=CC(=CC(=C1)C(F)(F)F)N1C=NC(=C1)C)=O | C19H17F3N4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-chloro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-benzoylamino]-phenyl}-amide | 3.4 g, yield 65% | CC1=C(C=C(C=C1)NC(C1=CC(=CC(=C1)C(F)(F)F)N1C=NC(=C1)C)=O)NC(=O)N1C=CC2=C1N=CN=C2Cl | C26H19ClF3N7O2
